US04672066
Preparation of 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-N-[3-(3-pyridinyl)propyl]hexanamide
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid was allowed to react with 3-pyridine propanamine according to procedure A and the product was purified by chromatography on silica gel to give 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[3-(3-pyridinyl)propyl]hexanamide the title compound, mp 83°14 85° (from methylene chloride-ether) in 87% yield.

reactant | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | 3-pyridine propanamine | N1=CC(=CC=C1)CCCN | C8H12N2
product | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-N-[3-(3-pyridinyl)propyl]hexanamide | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)NCCCC=2C=NC=CC2)C=C1)CCC)O | C25H34N2O4
